US04088695
A solution of 1-chloro-3-methylheptan-2-one (49.4 g.) and triphenylphosphine (79.5 g.) in chloroform (250 ml.) was saturated with nitrogen and refluxed under nitrogen overnight. The chloroform was removed in vacuo and the residue (crude 3-methyl-2-oxoheptyltriphenylphosphonium chloride) was added portionwise to a solution of sodium carbonate (109 g.) in water (1500 ml.) and the mixture was stirred vigorously for 24 hours. The solution was extracted with diethyl ether, and the ethereal extracts were dried over magnesium sulphate. The solvent was removed by evaporation and the residue was cooled and triturated with petroleum ether (b.p. 60°-80° C.) to give 2-methylhexanoylmethylenetriphenylphosphorane (35.2 g.), m.p. 107°-109° C.

reactant | 1-chloro-3-methylheptan-2-one | 49.4 g | ClCC(C(CCCC)C)=O | C8H15ClO
reactant | triphenylphosphine | 79.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methylhexanoylmethylenetriphenylphosphorane | 35.2 g | CC(C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C26H29OP
